datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C1=CC=CC=C1)CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CC.[O-:21][H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S]C(CC)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C)[S]1 10=20;20,21=21"
"C[O:10][CH:20]([Cl:21])CCCCCC>>C[O+:10]=[CH:20]CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[NH:10](C)C([H])C(C)N([C:20](C)=[O:21])C>>[O-:21][C:20]1(C)[NH+:10](C)C([H])C(C)N1C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[O-:10]C([H])C(O)C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O:10]C([H])C(O)C1C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OCC)[Cl:21])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OCC)[H].[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C(C)=C(C)C(CC)[O:10]1>>[O-:10]C(CC)/C(C)=C(C)\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH:10][H].C1CC(=O)N(C1=O)O[C:20](=[O:21])CCCCCC>>CC[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)CCCCCC)[H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)CCCCCC>>[H]N([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])CCCCCC 21=20;20,10=10"
"[O-:21][CH:20]2(C)C(C3=C(C([O:10]2)[H])C=CC=C3)[H]>>[O-:10]C(C1=C(C([CH:20](C)=[O:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]CC.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]CC 10=20;20,21=21"
"[H][S:10]C(C)C(CC)[S][C:20]([S]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]CC 10=20;20,21=21"
"[H][NH:10]C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21][H])([O][H])[NH]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].[H][NH+:21]=[C:20]([O][H])[NH]CC 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C([H])[O]1 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C([H])[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])=C(C)C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)/C(C)=C([H])\[C:20](OC)=[O:21] 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])CC)C1=CC=CC=C1)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CC)C1=CC=CC=C1)C 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7 21=20;20,10=10"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
